US07125865B2
Preparation of 2-[2-oxo-3-(3-{[7-propyl-3-(trifluoromethyl)-1,2-benzisoxazol-6-yl]oxy}propyl)imidazolidin-1-yl]propanoic acid.
To a MeOH solution (0.6 mL) of methyl 2-[2-oxo-3-(3-{[7-propyl-3-(trifluoromethyl)-1,2-benzisoxazol-6-yl]oxy}propyl)imidazolidin-1-yl]propanoate as prepared in Example 40 (17.6 mg, 0.039 mmol), was added NaOH (0.6 mL, 0.154 mmol) and the mixture stirred at room temperature overnight. The reaction mixture was neutralized with 1N HCl and purified by preparative HPLC and the title compound was obtained.

reactant | methyl 2-[2-oxo-3-(3-{[7-propyl-3-(trifluoromethyl)-1,2-benzisoxazol-6-yl]oxy}propyl)imidazolidin-1-yl]propanoate | O=C1N(CCN1CCCOC1=C(C2=C(C(=NO2)C(F)(F)F)C=C1)CCC)C(C(=O)OC)C | C21H26F3N3O5
reactant | NaOH | 0.154 mmol, 0.6 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | MeOH | 0.6 mL | CO | CH4O
product | 2-[2-oxo-3-(3-{[7-propyl-3-(trifluoromethyl)-1,2-benzisoxazol-6-yl]oxy}propyl)imidazolidin-1-yl]propanoic acid | O=C1N(CCN1CCCOC1=C(C2=C(C(=NO2)C(F)(F)F)C=C1)CCC)C(C(=O)O)C | C20H24F3N3O5
